US07781438B2
Preparation of (2-Chloro-7-methoxy-3,4-dihydro-naphthalen-1-yl)-acetic acid ethyl ester
(2-Chloro-1-hydroxy-7-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetic acid ethyl ester (42.7 g, 142.9 mmol) is dissolved under an atmosphere of argon in pyridine (250 ml). Trifluoromethanesulfonic acid anhydride (30.7 ml, 185.8 mmol) is added during 30 minutes, while keeping the temperature at 25° C. with occasional cooling with a ice bath. After addition is complete, the reaction mixture is warmed to 50° C. for 2 h. TLC analysis indicates complete conversion of starting material. 2 M aqueous HCl (100 ml) is carefully added, and then the reaction mixture is concentrated to dryness on the rotary evaporator. The residue is taken up in 2 M aqueous HCl (100 ml) and extracted with EtOAc. The organic layer is dried over Na2SO4 and concentrated. Purification by FCC (EtOAc) affords the title compound. ES+-MS: 281.2, 283.2 [M+H]+.

reactant | (2-Chloro-1-hydroxy-7-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetic acid ethyl ester | 142.9 mmol, 42.7 g | C(C)OC(CC1(C(CCC2=CC=C(C=C12)OC)Cl)O)=O | C15H19ClO4
reactant | Trifluoromethanesulfonic acid anhydride | 185.8 mmol, 30.7 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | HCl | 2 M, 100 ml | Cl | ClH
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | (2-Chloro-7-methoxy-3,4-dihydro-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(CCC2=CC=C(C=C12)OC)Cl)=O | C15H17ClO3
